US06265411B1
Potassium carbonate (800 mg, 5.8 mmol) followed by potassium iodide (30 mg, 0.2 mmol) and morpholine (500 μl, 5.7 mmol) were added to a solution of 5-(2-chloroacetyl)oxindole (1.05 g, 5 mmol), (J. Med. Chem. 1991, 1860), in DMF (20 ml) and the mixture was stirred for 1 hour at ambient temperature. The solvent was removed by evaporation and the residue was purified by reverse phase column chromatography on a Diaion (trade mark of Mitsubishi) HP20SS resin column, eluting with water/methanol (a gradient from 100/0 to 30/70). The purified product was then purified by chromatography on silica eluting with methylene chloride/methanol (95/5) to give 5-(2-morpholinoacetyl)oxindole (673 mg, 51%).

reactant | Potassium carbonate | 5.8 mmol, 800 mg | C([O-])([O-])=O.[K+].[K+]
reactant | morpholine | 5.7 mmol, 500 μl | N1CCOCC1 | C4H9NO
reactant | 5-(2-chloroacetyl)oxindole | 5 mmol, 1.05 g | ClCC(=O)C=1C=C2CC(NC2=CC1)=O | C10H8ClNO2
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
catalyst | potassium iodide | 0.2 mmol, 30 mg | [I-].[K+]
product | 5-(2-morpholinoacetyl)oxindole | 673 mg, 51% | O1CCN(CC1)CC(=O)C=1C=C2CC(NC2=CC1)=O | C14H16N2O3
